US05587379
Under a nitrogen atmosphere a stirred solution of 12.9 grams of 3-phenylphenylmethanol in 50 mL of 47-49% hydrobromic acid was heated at reflux for two hours. Thin layer chromatographic analysis of the reaction mixture indicated that the reaction was incomplete. An additional 50 mL of 47-49% hydrobromic acid was added, and the stirred reaction mixture was heated at reflux for an additional two hours. After this time the reaction mixture was poured into ice-water, and the mixture was extracted with 100 mL of diethyl ether. The extract was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 16.2 grams of 3-phenylphenylmethyl bromide. The NMR spectrum was consistent with the proposed structure.

reactant | 3-phenylphenylmethanol | 12.9 grams | C1(=CC=CC=C1)C=1C=C(C=CC1)CO | C13H12O
reactant | hydrobromic acid | 50 mL | Br | BrH
reactant | hydrobromic acid | 50 mL | Br | BrH
product | 3-phenylphenylmethyl bromide | 16.2 grams | C1(=CC=CC=C1)C=1C=C(C=CC1)CBr | C13H11Br
